US06525052B2
N-(4-Cyano-1-methyl-piperidin-4-yl)-3-cyclohexyl-2-[(ethylcarbamoylimino-phenyl-methyl)-amino]-propionamide (Method B).
A solution of 1-ethyl-3-(methoxy-phenyl-methylene)-urea (350 mg, 1.70 mmol), 2-amino-N-(4-cyano-1-methyl-piperidin-4-yl)-3-cyclohexyl-propionamide bis hydrochloride salt (512 mg, 1.40 mmol) and N,N-diisopropylethylamine (352 mg, 2.73 mmol) in dry methanol (5.0 mL) was stirred at room temperature for 60 h. The reaction mixture was concentrated and the resulting residue was chromatographed over 50 g of flash silica gel using dichloromethane to 5% methanol in dichloromethane as the eluant. This provided the desired product as a light yellow solid (280 mg, 43%) which was further purified by HPLC using a 20×250 mm C18 reverse phase column with the method being 20% acetonitrile in water to 90% acetonitrile in water. MS, m/z 467=M+1.

reactant | 1-ethyl-3-(methoxy-phenyl-methylene)-urea | 1.70 mmol, 350 mg | C(C)NC(=O)N=C(C1=CC=CC=C1)OC | C11H14N2O2
reactant | 2-amino-N-(4-cyano-1-methyl-piperidin-4-yl)-3-cyclohexyl-propionamide bis hydrochloride salt | 1.40 mmol, 512 mg | Cl.Cl.NC(C(=O)NC1(CCN(CC1)C)C#N)CC1CCCCC1
reactant | N,N-diisopropylethylamine | 2.73 mmol, 352 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methanol | 5.0 mL | CO | CH4O
product | N-(4-Cyano-1-methyl-piperidin-4-yl)-3-cyclohexyl-2-[(ethylcarbamoylimino-phenyl-methyl)-amino]-propionamide | 280 mg, 43% | C(#N)C1(CCN(CC1)C)NC(C(CC1CCCCC1)NC(C1=CC=CC=C1)=NC(NCC)=O)=O | C26H38N6O2
